US07521462B2
Sodium triacetoxyborohydride (24.9 g, 117.48 mmol) is added to a stirred solution of 1-Boc-4-piperidone (15.6 g, 78.3 mmol), iso-amyl amine (10.0 ml, 86.15 mmol), and dichloromethane (400 ml). The reaction is stirred overnight at room temperature under nitrogen. The reaction is diluted with water and aqueous saturated NaHCO3, and extracted with dichloromethane (150 ml×3). The dichloromethane is concentrated under vacuum, diluted with ethyl acetate and washed with aqueous saturated NaHCO3, dried over Na2SO4, filtered, and concentrated to yield (19.99 g) of 4-(3-methyl-butylamino)-piperidine-1-carboxylic acid tert-butyl ester: mass spectrum (ion spray): m/z=271 (M+1); 1H NMR (CDCl3): δ=4.05 (2H, brs), 2.84-2.73 (2H, brm), 2.67-2.55 (2H, m), 1.84 (2H, brd), 1.67-1.58 (1H, m), 1.51-1.44 (10H, m), 1.41-1.33 (2H, m), 1.30-1.18 (2H, m), 0.90 (6H, d).

reactant | Sodium triacetoxyborohydride | 117.48 mmol, 24.9 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1-Boc-4-piperidone | 78.3 mmol, 15.6 g | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
reactant | iso-amyl amine | 86.15 mmol, 10.0 ml | C(CC(C)C)N | C5H13N
reactant | dichloromethane | 400 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 4-(3-methyl-butylamino)-piperidine-1-carboxylic acid tert-butyl ester | 19.99 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NCCC(C)C | C15H30N2O2
